US06914074B2
1-Chloro-6-methoxy-2-(4-methoxyphenyl)naphthalene
The title compound was prepared by reacting 1-chloro-6-methoxy-2-naphthyl trifluoromethanesulfonate (0.95 g, 2.79 mmol) with 4-methoxyphenyl boronic acid (0.59 g, 3.9 mmol) according to method A to yield 0.71 g (85%) of a white solid: mp 126-128° C.; 1H NMR (CDCl3): δ 3.88 (3H, s), 3.95 (3H, s), 7.01 (2H, d, J=8.60 Hz), 7.16 (1H, d, J=2.49 Hz), 7.27 (1H, dd, J=1.97 Hz, J=8.99 Hz), 7.41 (1H, d, J=8.45 Hz), 7.46 (2H, d, J=8.61 Hz), 7.68 (1H, d, J=8.48 Hz), 8.28 (1H, d, J=9.27 Hz); MS (ESI) m/z 299/301 (M+H)+.

reactant | 1-chloro-6-methoxy-2-naphthyl trifluoromethanesulfonate | 2.79 mmol, 0.95 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)OC)Cl)(F)F | C12H8ClF3O4S
reactant | 4-methoxyphenyl boronic acid | 3.9 mmol, 0.59 g | COC1=CC=C(C=C1)B(O)O | C7H9BO3
product | 1-Chloro-6-methoxy-2-(4-methoxyphenyl)naphthalene | ClC1=C(C=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C18H15ClO2
